US06087357
A mixture of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-(4-chloro-2-butynyl)piperazine (0.49 g), 3-methylmorpholine hydrochloride (0.15 g), potassium carbonate (0.39 g) and potassium iodide (10 mg) in dry N,N-dimethylformamide (5 ml) was stirred for 5 hours at room temperature. The mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel using ethyl acetate as eluent and treated with 4N hydrogen chloride in ethyl acetate solution to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[4-(3-methylmorpholino)-2-butynyl]piperazine dihydrochloride (0.28 g).

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-(4-chloro-2-butynyl)piperazine | 0.49 g | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC#CCCl)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | C26H25ClF6N2O
reactant | 3-methylmorpholine hydrochloride | 0.15 g | Cl.CC1NCCOC1
reactant | potassium carbonate | 0.39 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 10 mg | [I-].[K+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[4-(3-methylmorpholino)-2-butynyl]piperazine dihydrochloride | 0.28 g | Cl.Cl.FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC#CCN2C(COCC2)C)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C31H35F6N3O2.2ClH/c1-21-6-7-24(14-22(21)2)15-28-19-38(8-4-5-9-39-12-13-42-20-23(39)3)10-11-40(28)29(41)25-16-26(30(32,33)34)18-27(17-25)31(35,36)37;;/h6-7,14,16-18,23,28H,8-13,15,19-20H2,1-3H3;2*1H/t23?,28-;;/m1../s1
